datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])[H:12])([H:10])[H:11],72.3832
[C:0](=[C:1]([C:2]([O:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([O:3][H:13])([H:8])[H:9])[H:7])([H:5])[H:6].[C:4]([H:10])([H:11])[H:12],91.5283
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])([H:6])[H:7],19.4556
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]=[S:7])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:8])([H:9])[H:10])=[S:7],71.128
[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])([H:11])[H:12])[H:10],147.678464
[N:0]([C:1]=[O:2])([H:3])[H:4].[O:5]>>[H:3][O:5].[N:0](=[C:1]=[O:2])[H:4],0.0
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3][O:9][H:10],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14][C:15](=[S:16])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14](=[C:13]([H:17])[H:18])[C:15](=[S:16])[H:19],54.392
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:22])[H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:11])[H:10])([H:8])[H:9],46.5261
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15]([H:19])([H:20])[H:21])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:16])[H:17])([C:15]([H:19])([H:20])[H:21])[H:18])[H:5],42.886
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],163.166
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10](=[C:11]=[C:12]([H:14])[H:15])[H:13],28.0328
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:15])[H:7])([H:5])[H:6].[S:14][H:16],28.4512
[C:0](=[N:1][O:2][H:5])([H:3])[H:4].[O:6][H:7]>>[C:0](=[N:1][O:2])([H:3])[H:4].[H:5][O:6][H:7],-2.5104
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:11],38.3254
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:11],48.6599
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][C:24]([H:25])([H:26])[H:27],49.019744
[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])([H:4])[H:7],-0.523
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:7](=[C:8]([H:10])[H:11])[H:9],14.1001
